* r:\esim_simulations\gurubaran\flash_adc\flash_adc.cir

.include lm_741.sub
r1  vref net-_r1-pad2_ 1k
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ gnd 1k
x6 ? net-_r1-pad2_ vin vss ? net-_u2-pad1_ vcc ? lm_741
x7 ? net-_r2-pad2_ vin vss ? net-_u2-pad2_ vcc ? lm_741
x3 ? net-_r3-pad2_ vin vss ? net-_u2-pad3_ vcc ? lm_741
x4 ? net-_r4-pad2_ vin vss ? net-_u2-pad4_ vcc ? lm_741
x5 ? net-_r5-pad2_ vin vss ? net-_u2-pad5_ vcc ? lm_741
x1 ? net-_r6-pad2_ vin vss ? net-_u2-pad6_ vcc ? lm_741
x2 ? net-_r7-pad2_ vin vss ? net-_u2-pad7_ vcc ? lm_741
v2 vcc gnd  dc 14
v3 gnd vss  dc 14
v4 vref gnd  dc 5
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ guru_encoder
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ gnd net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u3  net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ out2 out1 out0 dac_bridge_3
* u4  out2 plot_v1
* u6  out1 plot_v1
* u5  out0 plot_v1
v1 vin gnd  dc 2
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ gnd ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u2
a3 [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [out2 out1 out0 ] u3
* Schematic Name:                             guru_encoder, NgSpice Name: guru_encoder
.model u1 guru_encoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out2)
plot v(out1)
plot v(out0)
.endc
.end
